US08198272B2
2-Bromo-1-[3-tert-butyl-5-(3-hydroxypropoxy)-4-methoxyphenyl]ethanone
1-{3-tert-Butyl-4-methoxy-5-[3-(tetrahydropyran-2-yloxy)propoxy]phenyl}ethanone (O2.071; 12.7 g) was dissolved in methanol/THF (200/200 ml) and admixed with phenyltrimethylammonium tribromide (13.1 g) while stirring. The mixture was stirred at RT for 1 h, then diluted with DCM and washed once with 5% sodium thiosulfate solution. The DCM phase was dried over magnesium sulfate, filtered and concentrated. The residue was taken up in acetonitrile (100 ml) and admixed with 48% hydrobromic acid (5.91 ml). The mixture was left to stand for 1 h, then admixed with water, extracted by shaking with EA, and the combined EA phases were dried over magnesium sulfate, filtered and concentrated. The residue was purified using silica gel (120 g cartridge, n-heptane/MtB ether gradient of 0-100% in 60 min). 3.29 g of the title compound were obtained.

reactant | 1-{3-tert-Butyl-4-methoxy-5-[3-(tetrahydropyran-2-yloxy)propoxy]phenyl}ethanone | 12.7 g | C(C)(C)(C)C=1C=C(C=C(C1OC)OCCCOC1OCCCC1)C(C)=O | C21H32O5
reactant | phenyltrimethylammonium tribromide | 13.1 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
solvent | methanol THF | 200 ml | CO.C1CCOC1
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-Bromo-1-[3-tert-butyl-5-(3-hydroxypropoxy)-4-methoxyphenyl]ethanone | 3.29 g | BrCC(=O)C1=CC(=C(C(=C1)OCCCO)OC)C(C)(C)C | C16H23BrO4
